US04228102
426 g (3 mols) of butyl methacrylate, 390 g (3 mols) of N,N,2,2-tetramethylpropane-1,3-diamine, 29.4 g (0.3 mol) of H3PO4, and 2 g of hydroquinone were warmed for 2 hours at 220° C. N-(3-dimethylamino-2,2-dimethylpropyl)-methacrylic acid amide was formed in this way. Yield: 60% (selectivity: 94% calculated on the reacted butyl methacrylate).

reactant | butyl methacrylate | 3 mols, 426 g | C(C(=C)C)(=O)OCCCC | C8H14O2
reactant | N,N,2,2-tetramethylpropane-1,3-diamine | 3 mols, 390 g | CN(CC(CN)(C)C)C | C7H18N2
reactant | H3PO4 | 0.3 mol, 29.4 g | OP(=O)(O)O | H3O4P
reactant | hydroquinone | 2 g | C1(O)=CC=C(O)C=C1 | C6H6O2
product | N-(3-dimethylamino-2,2-dimethylpropyl)-methacrylic acid amide | Yield: 60% | CN(CC(CNC(C(=C)C)=O)(C)C)C | C11H22N2O
